US07446102B2
Benzyl{(1S)-4-{[(benzyloxy)carbonyl]amino}-1-[({3-[(tert-butoxycarbonyl)amino]-2-hydroxypropyl}amino)carbonyl]butyl}carbamate
Under argon, 0.20 g (0.50 mmol) of N2,N5-bis[(benzyloxy)carbonyl]-L-ornithine and 0.124 g (0.65 mmol) of tert-butyl(3-amino-2-hydroxypropyl)carbamate are dissolved in 6 ml of dimethylformamide. Then, at 0° C. (ice bath), 0.124 g (0.65 mmol) of EDC and 0.02 g (0.15 mmol) of HOBt are added. The mixture is slowly warmed to RT and stirred at RT for 12 h. The solution is concentrated in vacuo and the residue is taken up with ethyl acetate. The organic phase is washed successively with saturated sodium bicarbonate and sodium chloride solutions, dried over magnesium sulfate and evaporated in vacuo. The remaining solid is dried to constant weight under high vacuum.

reactant | N2,N5-bis[(benzyloxy)carbonyl]-L-ornithine | 0.50 mmol, 0.20 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C21H24N2O6
reactant | tert-butyl(3-amino-2-hydroxypropyl)carbamate | 0.65 mmol, 0.124 g | C(C)(C)(C)OC(NCC(CN)O)=O | C8H18N2O3
reactant | EDC | 0.65 mmol, 0.124 g
reactant | HOBt | 0.15 mmol, 0.02 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | Benzyl{(1S)-4-{[(benzyloxy)carbonyl]amino}-1-[({3-[(tert-butoxycarbonyl)amino]-2-hydroxypropyl}amino)carbonyl]butyl}carbamate | C(C1=CC=CC=C1)OC(N[C@@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)NCC(CNC(=O)OC(C)(C)C)O)=O | C29H40N4O8
